US04661636
(a) 2-chloromethylsulfonyl-4-(1,1-dimethylethyl)anisole
22.8 g (0.1 mol) of 3-(1,1-dimethylethyl)-2-methoxybenzenesulfinic acid, 23 g of Na2CO3 and 15 g (0.117 mol) of dichloroacetic acid are dissolved in 150 ml of H2. The solution is slowly evaporated to dryness at a bath temperature of 160° C. The residue is again taken up in H2O, and the solution is neutralized with a little dilute hydrochloric acid and extracted by shaking several times with ethyl acetate. After removing the solvent, the product is obtained as crystals.

reactant | 3-(1,1-dimethylethyl)-2-methoxybenzenesulfinic acid | 0.1 mol, 22.8 g | CC(C)(C)C=1C(=C(C=CC1)S(=O)O)OC | C11H16O3S
reactant | Na2CO3 | 23 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloroacetic acid | 0.117 mol, 15 g | ClC(C(=O)O)Cl | C2H2Cl2O2
product | 2-chloromethylsulfonyl-4-(1,1-dimethylethyl)anisole | ClCS(=O)(=O)C1=C(C=CC(=C1)C(C)(C)C)OC | C12H17ClO3S
